US05744488
t-Butyl 1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-5propanoate
A mixture of t-butyl (E)-3-[1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indol-5-yl]-2-propenoate (7.86 g), 10% palladium on carbon (0.70 g) and ammonium formate (5.60 g) in a mixture of methanol (40 ml) and tetrahydrofuran (40 ml) was heated at 60° C. for 3 hours and then cooled. The mixture was filtered and the residue was washed with methanol. The filtrate and washings were combined and evaporated, and the residue-was partitioned between water and ether. The organic layer was separated and the aqueous layer was extracted with ether. The organic layers were combined, washed with water and dried (MgSO4). Evaporation of the solvent gave the title compound as an oil (7.80 g). Found: C,70.51; H,6.98; N,6.54. C25H30N2O4 requires: C,71.06; H,7.16; N,6.63%.

reactant | t-butyl (E)-3-[1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indol-5-yl]-2-propenoate | 7.86 g | COC(=O)CCN1C=C(C2=CC(=CC=C12)/C=C/C(=O)OC(C)(C)C)CC=1C=NC=CC1 | C25H28N2O4
reactant | ammonium formate | 5.60 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.70 g | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | t-Butyl 1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-5propanoate | 7.80 g | COC(=O)CCN1C=C(C2=CC(=CC=C12)CCC(=O)OC(C)(C)C)CC=1C=NC=CC1 | C25H30N2O4
